US08357679B2
D: 1-Butyl-3-(5-(4-(4-(1,1,1,3,3,3-hexafluoro-2-hydroxypropan-2-yl)benzyl)piperazine-1-carbonyl)pyridin-2-yl)urea
1-Butyl-3-(5-(piperazine-1-carbonyl)pyridin-2-yl)urea (45 mg, 0.147 mmol), 2-(4-(bromomethyl)phenyl)-1,1,1,3,3,3-hexafluoropropan-2-ol (55 mg, 0.162 mmol), potassium carbonate (61 mg, 0.442 mmol) and sodium iodide (4 mg, 0.029 mmol) were stirred together in acetonitrile (1.5 mL) at reflux for 2 hours. After this time the mixture was cooled to room temperature and diluted with water and ethyl acetate. The organic layer was separated, dried and concentrated under reduced pressure. The residue was purified by silica chromatography eluting with 5% methanol in dichloromethane to give the title compound (29 mg).

reactant | 1-Butyl-3-(5-(piperazine-1-carbonyl)pyridin-2-yl)urea | 0.147 mmol, 45 mg | C(CCC)NC(=O)NC1=NC=C(C=C1)C(=O)N1CCNCC1 | C15H23N5O2
reactant | 2-(4-(bromomethyl)phenyl)-1,1,1,3,3,3-hexafluoropropan-2-ol | 0.162 mmol, 55 mg | BrCC1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)O | C10H7BrF6O
reactant | potassium carbonate | 0.442 mmol, 61 mg | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 0.029 mmol, 4 mg | [I-].[Na+]
solvent | acetonitrile | 1.5 mL | C(C)#N | C2H3N
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-Butyl-3-(5-(4-(4-(1,1,1,3,3,3-hexafluoro-2-hydroxypropan-2-yl)benzyl)piperazine-1-carbonyl)pyridin-2-yl)urea | 29 mg | C(CCC)NC(=O)NC1=NC=C(C=C1)C(=O)N1CCN(CC1)CC1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)O | C25H29F6N5O3
